US06444668B1
4-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-furan-2-carbaldehyde
A solution of 6-(5-diethoxymethyl-furan-3-yl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (1.1 g, 3 mmol) was stirred in THF (20 mL) and 2N HCl (2 mL) for 1 hour. The crystalline product was filtered and dried (0.52 g, 69%): mp 262-263° C.; 1H NMR ( DMSO-d6 ) δ10.3 (s, 1H), 9.65 ( s, 1H), 8.59 (s, 1H), 8.04 (s, 1H), 7.65-7.64 (d, 1H, J=1.5 Hz),7.61-7.60 (d, 1H, J=1.8 Hz), 7.59-7.58 (d, 1H, J=1.8 Hz), 6.94-6.91 (d, 1H, J=8.2 Hz), 1.65 (s, 6H). .MS (ESI) m/z 270 [M−H]−.

reactant | 6-(5-diethoxymethyl-furan-3-yl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 3 mmol, 1.1 g | C(C)OC(C1=CC(=CO1)C1=CC2=C(NC(OC2(C)C)=O)C=C1)OCC | C19H23NO5
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-furan-2-carbaldehyde | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(OC2)C=O)C | C15H13NO4
